US06479487B1
1-(2-Phenylsulfinylethyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-2-phenylsulfinylethane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-2-phenylsulfinylethane | ClCCS(=O)C1=CC=CC=C1 | C8H9ClOS
product | 1-(2-Phenylsulfinylethyl)-4-piperidone | C1(=CC=CC=C1)S(=O)CCN1CCC(CC1)=O | C13H17NO2S
